US07304162B2
3,5-dimethyl-benzaldehyde chlorooxime (1.84 g, 4 mmol) was dissolved in 30 mL of CHCl3 in a round bottom flask. An aqueous solution of K2CO3 (25 mL, 0.1 66 g/mL) was added, followed by 1.05 g of 3-methoxy-2-methyl-benzoic acid (tetrahydro-pyran4-ylidene)-hydrazide. The reaction was stirred overnight at 55-60° C. Water and CH2Cl2 (50 mL) were added, and the mixture was shaken in a separatory funnel. The aqueous phase was removed and extracted once with CHCl3 (25 mL). The organic phases were combined, washed once with dilute K2CO3, and dried over MgSO4. The solvent was removed in vacuo to yield 2.5 g of crude product. This material was triturated twice with 10% ether in hexane and then once with 25% ether in hexane. The solids were collected and filtered, yielding 720 mg of N-[3-(3,5-dimethyl-phenyl)-1,8-dioxa-2,4-diaza-spiro[4.5]dec-2-en-4-yl]-3-methoxy-2-methyl-benzamide at 80% purity and a 49% yield. 1H NMR (300 MHz, CDCl3)δ(ppm): 8.5 (s, 1H [NH]), 7.4 (s, 2H), 7.1 (m, 1H), 7.1 (s, 1H), 6.9 (d, 1H), 6.65 (d, 1H), 3.9 (m, 4H), 3.8 (s, 3H), 2.4 (m, 4H), 2.35 (s, 6H), 2.05 (s, 3H).

reactant | 3,5-dimethyl-benzaldehyde chlorooxime | 4 mmol, 1.84 g | ClON=CC1=CC(=CC(=C1)C)C | C9H10ClNO
reactant | K2CO3 | 25 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-methoxy-2-methyl-benzoic acid (tetrahydro-pyran4-ylidene)-hydrazide | 1.05 g | O1CCC(CC1)=NNC(C1=C(C(=CC=C1)OC)C)=O | C14H18N2O3
reactant | Water | O | H2O
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(3,5-dimethyl-phenyl)-1,8-dioxa-2,4-diaza-spiro[4.5]dec-2-en-4-yl]-3-methoxy-2-methyl-benzamide | 720 mg, 49% yield | CC=1C=C(C=C(C1)C)C1=NOC2(N1NC(C1=C(C(=CC=C1)OC)C)=O)CCOCC2 | C23H27N3O4
